US05385880
50.0 g (0.22 mol) of methyl 2-hydroxy-4-phenylnicotinate and 200 ml of dichloromethane were weighed and added dropwise to 50.0 g (0.24 mol) of trifluoromethane sulfonic anhydride at around -20° C. After the dropwise addition, the resultant mixture was further stirred at a temperature of from -20° C. to -10° C. for 30 minutes, and thereafter the temperature was restored to room temperature. The reaction mixture was then poured into water and was extracted with 300 ml of dichloromethane, and the organic layer was then washed with water and a saturated sodium chloride aqueous solution. After drying, the solvent was distilled off to obtain 50.0 g of a yellow viscous liquid of methyl 2-methanesulfonyl-4-phenylnicotinate (yield=64%).

reactant | methyl 2-hydroxy-4-phenylnicotinate | 0.22 mol, 50.0 g | OC1=C(C(=O)OC)C(=CC=N1)C1=CC=CC=C1 | C13H11NO3
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
reactant | trifluoromethane sulfonic anhydride | 0.24 mol, 50.0 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | water | O | H2O
product | methyl 2-methanesulfonyl-4-phenylnicotinate | yield=64% | CS(=O)(=O)C1=C(C(=O)OC)C(=CC=N1)C1=CC=CC=C1 | C14H13NO4S
